US07465836B2
4-Chloro-2-methoxyphenylboronic acid ethylene glycol ester To a solution of 2-bromo-5-chloroanisole (4.43 g, 20 mmol) in dry THF (100 mL) at −78° C. was added dropwise t-BuLi (14.1 mL, 1.7 M, 23.97 mmol). The mixture was stirred for 10 min at −78° C. and trimethyl borate (2.23 mL, 20 mmol) was added. The cooling bath was removed and the mixture was stirred for 30 min from −78° C. to room temperature and then for 3 h with a water bath. Hydrochloric acid (6N, 8 mL) and brine were added. The mixture was extracted with ethyl acetate, dried and evaporated to give 4-chloro-2-methoxyphenylboronic acid as a brown solid (3.33 g, 17.88 mmol) in 89.4% yield. This boronic acid was mixed with ethylene glycol (1.1 g, 17.88 mmol) and toluene (150 mL). The mixture was refluxed for 2 h under N2 with the help of a Dean-Stark trap to remove water generated. After being cooled to room temperature, the solution was transferred to another dry flask and rotary evaporated to provide 4-Chloro-2-methoxyphenylboronic acid ethylene glycol ester as a brown liquid (3.6 g, 16.97 mmol) in 84.8% yield.

reactant | 2-bromo-5-chloroanisole | 20 mmol, 4.43 g | BrC1=C(C=C(C=C1)Cl)OC | C7H6BrClO
reactant | t-BuLi | 23.97 mmol, 1.7 M, 14.1 mL | [Li]C(C)(C)C
reactant | trimethyl borate | 20 mmol, 2.23 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-chloro-2-methoxyphenylboronic acid | 17.88 mmol, 3.33 g, 89.4% yield | ClC1=CC(=C(C=C1)B(O)O)OC | C7H8BClO3
